### PR TITLE
[Merged by Bors] - chore: golf Algebra/ using `grind`

### PR DESCRIPTION
**Pull request by euprunin**

### CODE REVIEW

**Comment by ghost** [comment]
!bench

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by ghost** [comment]
!bench

**Comment by ghost** [comment]
!bench

**Comment by ghost** [comment]
!bench

**Comment by euprunin** [comment]
The reported instruction change for `Mathlib.Algebra.Group.Nat.Defs` appears spurious: this file is not modified by this PR, and all changes in this PR involve only theorems or lemmas (in other files), with no changes to any definitions.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Basic.lean [hunk 1]
```diff
@@ -382,9 +382,7 @@ lemma nonsingular_smul (P : Fin 3 → R) {u : R} (hu : IsUnit u) :
     refine (nonsingular_iff P).mpr ⟨(equation_smul P hu).mp hP, ?_⟩
     contrapose! hP'
     simp only [smul_fin3_ext]
-    exact ⟨by linear_combination (norm := ring1) u ^ 2 * hP'.left,
-      by linear_combination (norm := ring1) u ^ 2 * hP'.right.left,
-      by linear_combination (norm := ring1) u ^ 2 * hP'.right.right⟩
+    grind
```
Comment (grunweg) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Basic.lean]: Flagging this change just for a second pair of eyes

File: Mathlib/Algebra/Polynomial/UnitTrinomial.lean [hunk 2]
```diff
@@ -80,11 +80,9 @@ theorem trinomial_natTrailingDegree (hkm : k < m) (hmn : m < n) (hu : u ≠ 0) :
       ((Finset.le_inf fun i h => ?_).antisymm <|
           trailingDegree_le_of_ne_zero <| by rwa [trinomial_trailing_coeff' hkm hmn]).symm
   replace h := support_trinomial' k m n u v w h
-  rw [mem_insert, mem_insert, mem_singleton] at h
-  rcases h with (rfl | rfl | rfl)
-  · exact le_rfl
-  · exact WithTop.coe_le_coe.mpr hkm.le
-  · exact WithTop.coe_le_coe.mpr (hkm.trans hmn).le
+  simp_all only [ne_eq, mem_insert, mem_singleton, ENat.some_eq_coe, Nat.cast_le,
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/UnitTrinomial.lean]: I would somewhat prefer keeping the `rw` line, and then just doing `grind` to conclude.

**Review by grunweg — COMMENTED** [review]
Thanks! Looks good, assuming benchmarking is just noise
maintainer delegate

File: Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Basic.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Projective/Basic.lean]: I've reverted this change for now: perhaps the old version was better.

File: Mathlib/Algebra/Polynomial/UnitTrinomial.lean (hunk 2 above)
Comment (euprunin) [reply Mathlib/Algebra/Polynomial/UnitTrinomial.lean]: I've reverted this change.

Comment (grunweg) [reply Mathlib/Algebra/Polynomial/UnitTrinomial.lean]: If `grind` works for the last four lines, that part is nice and could be kept.

Comment (euprunin) [reply Mathlib/Algebra/Polynomial/UnitTrinomial.lean]: Like this?

```
theorem trinomial_natDegree (hkm : k < m) (hmn : m < n) (hw : w ≠ 0) :
    (trinomial k m n u v w).natDegree = n := by
  refine
    natDegree_eq_of_degree_eq_some
      ((Finset.sup_le fun i h => ?_).antisymm <|
        le_degree_of_ne_zero <| by rwa [trinomial_leading_coeff' hkm hmn])
  replace h := support_trinomial' k m n u v w h
  rw [mem_insert, mem_insert, mem_singleton] at h
  grind
```

I don't think that works.

Comment (grunweg) [reply Mathlib/Algebra/Polynomial/UnitTrinomial.lean]: Yes, that's what I meant. If that doesn't work, obviously don't do it :-)

**Comment by euprunin** [comment]
The dreaded CI error:

```
verify that everything was available in the cache
Run lake build --no-build Mathlib
Error: Process completed with exit code 3.
```

Any suggestions for how to resolve this?

**Comment by kim-em** [comment]
bors merge
